US06319920B1
Sodium triacetoxyborohydride (26 grams, 0.123 mole) was added to a suspension of (S,S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]-1-phenylethylamine hydrochloride (26 grams, 0.08 mole) in dichloroethane (300 ml) and triethylamine (11.5 ml). After stirring for 5 minutes, acetaldehyde (4.8 ml, 0.086 mole) was added and the mixture was stirred for another 2 hours. Aqueous 5% sodium carbonate (400 ml) was added and the mixture was extracted with methylene chloride. Evaporation of the solvent gave (S,S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-phenylethyl)amine as an oil (23 grams, 91%), M+ 309.

reactant | Sodium triacetoxyborohydride | 0.123 mole, 26 grams | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (S,S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]-1-phenylethylamine hydrochloride | 0.08 mole, 26 grams | Cl.O1CCC2=C1C=CC(=C2)C[C@H](C)N[C@@H](C)C2=CC=CC=C2
reactant | acetaldehyde | 0.086 mole, 4.8 ml | C(C)=O | C2H4O
reactant | sodium carbonate | 400 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloroethane | 300 ml | ClC(C)Cl | C2H4Cl2
solvent | triethylamine | 11.5 ml | C(C)N(CC)CC | C6H15N
product | (S,S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-(1-phenylethyl)amine | 23 grams, 91% | O1CCC2=C1C=CC(=C2)C[C@H](C)N(CC)[C@@H](C)C2=CC=CC=C2 | C21H27NO
